US09284331B2
Step 2: 1-(1H-imidazol-4-yl)cyclopropanol.
A mixture of 1-(1-trityl-1H-imidazol-4-yl)cyclopropanol (2.4 g, 6.55 mol) was treated with a 90% aq. solution of formic acid (50 mL) and the mixture was stirred at RT for 24 h. The mixture was then concentrated in vacuo, diluted in a small volume of MeOH, and the solution was rendered basic with a 7M solution of NH3 in MeOH. The white precipitate was filtered off and the filtrate was concentrated in vacuo. Purification by flash chromatography (SiO2, DCM/MeOH 100:0 to 85:15) afforded the title compound (920 mg). UPLC-MS: MS 125.1 (M+H+).

reactant | 1-(1-trityl-1H-imidazol-4-yl)cyclopropanol | 6.55 mol, 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1(CC1)O | C25H22N2O
solvent | formic acid | 50 mL | C(=O)O | CH2O2
product | 1-(1H-imidazol-4-yl)cyclopropanol | 920 mg | N1C=NC(=C1)C1(CC1)O | C6H8N2O
